US07012075B2
To a 0° C. solution of triisopropylsilyl 4-{2′-[(1-{[(cyanomethyl)amino]carbonyl}-cyclohexyl)sulfanyl][1,1′-biphenyl]-4yl}-1-piperazinecarboxylate (35 mg, 0.055 mmol) in THF (8 mL) was added TBAF (1 M in THF, 0.08 mL). The solution was stirred at 0° C. for 20 min, then partitioned between EtOAc and saturated aq. NaHCO3. The organic phase was washed with water and brine, then dried over MgSO4 and concentrated and placed under vacuum for 6 h to give N-(cyanomethyl)-1-{[4′-(1-piperazinyl)[1,1 ′-biphenyl]-2-yl]sulfanyl}cyclohexanecarboxamide. MS (+APCI) m/z 435 (M+1, 40), 351 (100), 318 (45).

reactant | triisopropylsilyl 4-{2′-[(1-{[(cyanomethyl)amino]carbonyl}-cyclohexyl)sulfanyl][1,1′-biphenyl]-4yl}-1-piperazinecarboxylate | 0.055 mmol, 35 mg | C(#N)CNC(=O)C1(CCCCC1)SC1=C(C=CC=C1)C1=CC=C(C=C1)N1CCN(CC1)C(=O)O[Si](C(C)C)(C(C)C)C(C)C | C35H50N4O3SSi
reactant | TBAF | 1 M, 0.08 mL | CCCC[N+](CCCC)(CCCC)CCCC.[F-]
solvent | THF | 8 mL | C1CCOC1 | C4H8O
product | N-(cyanomethyl)-1-{[4′-(1-piperazinyl)[1,1 ′-biphenyl]-2-yl]sulfanyl}cyclohexanecarboxamide | C(#N)CNC(=O)C1(CCCCC1)SC1=C(C=CC=C1)C1=CC=C(C=C1)N1CCNCC1 | C25H30N4OS
